US08426449B2
Step 2: {3-[2-(Benzylamino-methyl)-4-bromo-phenoxy]-phenyl}-acetic acid methyl ester
[3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester (0.151 g, 0.43 mmol), benzylamine (0.05 mL, 0.48 mmol), and sodium cyanoborohydride (0.041 g, 0.65 mmol) were combined in CH2Cl2 (3 mL). Acetic acid (2 drops) was added, and the reaction was stirred overnight at room temperature. The mixture was partitioned between CH2Cl2 and saturated aqueous NaHCO3, and the aqueous layer was separated and extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated, and the residue was purified by silica gel chromatography (10-30% EtOAc in hexanes) to give the title compound.

reactant | [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester | 0.43 mmol, 0.151 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C16H13BrO4
reactant | benzylamine | 0.48 mmol, 0.05 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 0.65 mmol, 0.041 g | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | {3-[2-(Benzylamino-methyl)-4-bromo-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CNCC1=CC=CC=C1)=O | C23H22BrNO3
